US07544453B2
120 grams (0.6876 mol) of vinylbenzyl acetate, inhibited with 10 mg of MEHQ were added to a one liter 3-neck round bottom flask equipped with a condenser, mechanical stirrer and thermometer, followed by 50 grams (1.25 mol) of sodium hydroxide. 50 mL of water and 300 mL of ethanol were then added and the contents of the flask heated at reflux (65° C.) for 2 hours. After the mixture was allowed to cool to room temperature, water was added. The content of the flask was poured into a separatory funnel and extracted with chloroform several times. The chloroform extract was subsequently washed several times with water and dried over magnesium sulfate. Removal of the chloroform on the rotary evaporator afforded 83 grams of the vinylbenzyl alcohol product (95% yield). The purification was accomplished by vacuum distillation.

reactant | vinylbenzyl acetate | 0.6876 mol, 120 grams | C(C)(=O)OC(C1=CC=CC=C1)C=C | C11H12O2
reactant | sodium hydroxide | 1.25 mol, 50 grams | [OH-].[Na+]
reactant | ethanol | 300 mL | C(C)O | C2H6O
catalyst | MEHQ | 10 mg | COC1=CC=C(C=C1)O | C7H8O2
solvent | water | O | H2O
solvent | water | 50 mL | O | H2O
product | vinylbenzyl alcohol | 83 grams, 95% yield | C(=C)C(C1=CC=CC=C1)O | C9H10O
